US09382254B2
Step 2-Amino-5-benzenesulfonyl-4-methyl-thiophene-3-carboxylic acid
2-Acetylamino-5-benzenesulfonyl-4-methyl-thiophene-3-carboxylic acid amide (980 mg 2.9 mmol) is dissolved in a mixture of 6 M aqueous HCl and 1,4-dioxane (1:1, 10 mL). This mixture is then heated at 80° C. for 6 h, and concentrated by evaporation to yield a residue that is as such.

reactant | 2-Acetylamino-5-benzenesulfonyl-4-methyl-thiophene-3-carboxylic acid amide | 2.9 mmol, 980 mg | C(C)(=O)NC=1SC(=C(C1C(=O)N)C)S(=O)(=O)C1=CC=CC=C1 | C14H14N2O4S2
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 6 M | Cl | ClH
product | 2-Amino-5-benzenesulfonyl-4-methyl-thiophene-3-carboxylic acid | NC=1SC(=C(C1C(=O)O)C)S(=O)(=O)C1=CC=CC=C1 | C12H11NO4S2
